US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid tert-butyl ester was prepared according to the procedure as outlined in Example 9. Starting from 2-(4-methoxy-benzenesulfonyl)-acetic acid tert-butyl ester (2.86 g, 10 mmol) and 1-bromo-2-butyne (2.68 g, 20 mmol), 3.50 g of the product was isolated. Yield 90%; white solid; mp 85-87° C.; MS: 391.0 (M+H)+.

reactant | 2-(4-methoxy-benzenesulfonyl)-acetic acid tert-butyl ester | 10 mmol, 2.86 g | C(C)(C)(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C13H18O5S
reactant | 1-bromo-2-butyne | 20 mmol, 2.68 g | BrCC#CC | C4H5Br
product | 2-(4-Methoxy-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid tert-butyl ester | Yield 90% | C(C)(C)(C)OC(C(CC#CC)(CC#CC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C21H26O5S
